US06410534B1
Step L: (tert-Butoxycarbonylamino)-N-(7-hydroxynaphthalen-1yl)acetamide
To a solution of N-(7-benzyloxynaphthalen-1-yl)(tert-butoxycarbonylamino)acetamide, as described above in Step K, (1.22 g, 3.01 mmol) in EtOH (30 mL) was added 10% Pd-C on carbon (220 mg) and the reaction mixture was stirred under an atmosphere of hydrogen (ca. 1 atm) at ambient temperature for 18 hrs. The mixture was filtered through a pad of celite, washing with EtOH, and the filtrate was concentrated in vacuo to give a crude product. This was purified by flash column chromatography on silica, eluting with EtOAc, to yield the titled product as a pale solid.

reactant | N-(7-benzyloxynaphthalen-1-yl)(tert-butoxycarbonylamino)acetamide | C(C1=CC=CC=C1)OC1=CC=C2C=CC=C(C2=C1)NC(CNC(=O)OC(C)(C)C)=O | C24H26N2O4
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd-C | [Pd] | Pd
product | (tert-Butoxycarbonylamino)-N-(7-hydroxynaphthalen-1yl)acetamide | C(C)(C)(C)OC(=O)NCC(=O)NC1=CC=CC2=CC=C(C=C12)O | C17H20N2O4
